### PR TITLE
feat: add BitVec.[udiv|umod]_[zero|one|self] theorems

### PR DESCRIPTION
**Pull request by tobiasgrosser**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2246,10 +2246,40 @@ theorem toNat_udiv {x y : BitVec n} : (x / y).toNat = x.toNat / y.toNat := by
...
+  · simp
+
+@[simp]
+theorem udiv_eq_and {x y : BitVec 1} :
+    x / y = (x &&& y) := by
+  have hx : x = 0#1 ∨ x = 1#1 := by bv_omega
+  have hy : y = 0#1 ∨ y = 1#1 := by bv_omega
+  rcases hx with rfl | rfl <;>
+    rcases hy with rfl | rfl <;>
+      rfl
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2271]:
```suggestion
    x / y = (x &&& y) := by revert x y; decide
```

Since this statement has only finitely many cases to check, we can use the `Decidable` instances to perform this checking for us!

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 2]
```diff
@@ -254,8 +254,17 @@ theorem BitVec.getElem_eq_getLsbD (a : BitVec w) (i : Nat) (h : i < w) :
 attribute [bv_normalize] BitVec.add_eq_xor
 attribute [bv_normalize] BitVec.mul_eq_and
 
+attribute [bv_normalize] BitVec.zero_udiv
 attribute [bv_normalize] BitVec.udiv_zero
+attribute [bv_normalize] BitVec.udiv_one
+attribute [bv_normalize] BitVec.udiv_eq_and
+attribute [bv_normalize] BitVec.udiv_self
+
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:262]:
```suggestion

```

File: src/Std/Tactic/BVDecide/Normalize/BitVec.lean [hunk 3]
```diff
@@ -254,8 +254,15 @@ theorem BitVec.getElem_eq_getLsbD (a : BitVec w) (i : Nat) (h : i < w) :
...
 
+attribute [bv_normalize] BitVec.zero_udiv
 attribute [bv_normalize] BitVec.udiv_zero
+attribute [bv_normalize] BitVec.udiv_one
+attribute [bv_normalize] BitVec.udiv_eq_and
+attribute [bv_normalize] BitVec.zero_umod
 attribute [bv_normalize] BitVec.umod_zero
+attribute [bv_normalize] BitVec.umod_one
+attribute [bv_normalize] BitVec.umod_self
+attribute [bv_normalize] BitVec.umod_eq_and
```
Comment (tobiasgrosser) [inline src/Std/Tactic/BVDecide/Normalize/BitVec.lean:265]:
```suggestion
attribute [bv_normalize] BitVec.umod_eq_and
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2266,6 +2296,29 @@ theorem toNat_umod {x y : BitVec n} :
...
+theorem umod_self {x : BitVec w} : x % x = 0#w := by
+  simp [bv_toNat]
+
+@[simp]
+theorem umod_eq_and {x y : BitVec 1} : x % y = x &&& (~~~y) := by
+  have hx : x = 0#1 ∨ x = 1#1 := by bv_omega
+  have hy : y = 0#1 ∨ y = 1#1 := by bv_omega
+  rcases hx with rfl | rfl <;>
+    rcases hy with rfl | rfl <;>
+      rfl
```
Comment (bollu) [inline src/Init/Data/BitVec/Lemmas.lean:2315]:
```suggestion
theorem umod_eq_and {x y : BitVec 1} : x % y = x &&& (~~~y) := by revert x y; decide
```

Same trick: finitely many cases, so use the `decide` instance.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:2320]: decideable instances are defined later only.
